US04719054
In analogy to Direction II(b), 5.6 g of 18-methyl-15α-trimethylacetoxy-4-estrene-3,17-dione is reacted with dimethoxypropane and worked up, thus obtaining 4.9 g of 3-methoxy-18-methyl-15α-trimethylacetoxy-3,5-estradien-17-one.

reactant | 18-methyl-15α-trimethylacetoxy-4-estrene-3,17-dione | 5.6 g | CC[C@@]12C(C[C@@H]([C@H]1[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(C(C)(C)C)=O)=O | C24H34O4
reactant | dimethoxypropane | COC(C)(C)OC | C5H12O2
product | 3-methoxy-18-methyl-15α-trimethylacetoxy-3,5-estradien-17-one | 4.9 g | COC1=CC2=CC[C@H]3[C@@H]4[C@H](CC([C@@]4(CC)CC[C@@H]3[C@H]2CC1)=O)OC(C(C)(C)C)=O | C25H36O4
